* PSpice Model Editor - Version 9.2
*

*******************************************************
*
.model Q2N4401 NPN(Is=26.03f Xti=3 Eg=1.11 Vaf=90.7 Bf=429.2 Ne=1.244
+         Ise=26.03f Ikf=.2061 Xtb=1.5 Br=1.01 Nc=2 Isc=0 Ikr=0 Rc=.5
+         Cjc=11.01p Mjc=.3763 Vjc=.75 Fc=.5 Cje=24.07p Mje=.3641 Vje=.75
+         Tr=233.7n Tf=466.5p Itf=0 Vtf=0 Xtf=0 Rb=10)
*         Motorola  pid=2N4400     case=TO92
*         88-09-13 bam   creation
*$
**********************************************************
*
.model Q2N4403 PNP(Is=650.6E-18 Xti=3 Eg=1.11 Vaf=115.7 Bf=216.2 Ne=1.829
+         Ise=58.72f Ikf=1.079 Xtb=1.5 Br=3.578 Nc=2 Isc=0 Ikr=0 Rc=.715
+         Cjc=14.76p Mjc=.5383 Vjc=.75 Fc=.5 Cje=19.82p Mje=.3357 Vje=.75
+         Tr=111.6n Tf=603.7p Itf=.65 Vtf=5 Xtf=1.7 Rb=10)
*         National  pid=63         case=TO92
*         88-09-09 bam   creation
*$
*******************************************************************
.model Q2N3904 NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+         Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+         Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75
+         Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)
*         National  pid=23         case=TO92
*         88-09-08 bam   creation
*$
**********************************************************
*
.model Q2N3906 PNP(Is=1.41f Xti=3 Eg=1.11 Vaf=18.7 Bf=180.7 Ne=1.5 Ise=0
+         Ikf=80m Xtb=1.5 Br=4.977 Nc=2 Isc=0 Ikr=0 Rc=2.5 Cjc=9.728p
+         Mjc=.5776 Vjc=.75 Fc=.5 Cje=8.063p Mje=.3677 Vje=.75 Tr=33.42n
+         Tf=179.3p Itf=.4 Vtf=4 Xtf=6 Rb=10)
                                                       *         National  pid=66         case=TO92           
*         88-09-09 bam   creation
*$

.SUBCKT OPAMP1 100 101 102
R1 100 0 100MEG
R2 101 0 100MEG
EOUT 102 0 100 101 1E4
.ENDS
*$
*
**********************************************************
*
* OP AMP WITH OUTPUT VOLTAGE LIMITING
*
*              V1  V2  VO  +VCC -VEE
*
.SUBCKT OPAMP2 100 101 105  103  104
R1 100 0 100MEG
R2 101 0 100MEG
EOUT 102 0 100 101 1E4
ROUT 102 105 50
D1 105 103 DX
D2 104 105 DX
.MODEL DX D(N=0.001)
.ENDS
*$
**********************************************************
**********************************************************
*
*$
.model J2N3819 NJF(Beta=1.304m Betatce=-.5 Rd=1 Rs=1 Lambda=2.25m Vto=-3
+         Vtotc=-2.5m Is=33.57f Cgd=1.6p Pb=1 Fc=.5 Cgs=2.414p 
+               Kf=9.882E-18 Af=1)
*         National  pid=50         case=TO92
*         88-08-01 rmn   BVmin=25

*$
*******************************************************
* FET LARGE SIGNAL LINEAR MODEL
*
*                D   G   S
*                !   !   !
.SUBCKT FETLSLM  D   G   S
RGG G   S 100MEG
IX  D   S   6.667MA; IDSS=10MA, IX=2/3 IDSS
G1 D   S   G   S  1.333MS ; LAST # IS GM = -2IDSS/3VP 
.ENDS                      ;                WITH VP=-5V
*$
**********************************************************
*-------------------------------------------------------------------------------
* Library of MOSFET model parameters (for "power" MOSFET devices)
* - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - - -
*
.model IRF150  NMOS(Level=3 Gamma=0 Delta=0 Eta=0 Theta=0 Kappa=0 Vmax=0 Xj=0
+         Tox=100n Uo=600 Phi=.6 Rs=1.624m Kp=20.53u W=.3 L=2u Vto=2.831
+            Rd=1.031m Rds=444.4K Cbd=3.229n Pb=.8 Mj=.5 Fc=.5 Cgso=9.027n
+         Cgdo=1.679n Rg=13.89 Is=194E-18 N=1 Tt=288n)
*         Int'l Rectifier     pid=IRFC150    case=TO3
*         88-08-25 bam   creation

*-------------------------------------------------------------------------------
**********************************************************
*
* INVERTER SUBCIRCUIT
*
*          IN OUT VCC
*           !  !   !
*$
.SUBCKT INV 1  2   3 
M1 2 1 0 0 NMOSMOD1                
M2 2 1 3 3 PMOSMOD1
.ENDS
*$
*
**********************************************************
